US08124560B2
Preparation of Dimethyldipropylammonium Hydroxide
15 ml of dipropylamine in 50 ml of ethanol as a solvent and with KHCO3 as a buffer are reacted with 20 ml of methyl iodide at a temperature of from 40 to 50° C. in a water bath with stirring. After 2 hours, cooling to room temperature was effected, the product dimethyldipropylammonium iodide crystallizing out. The solid filtrate was washed in ethanol. An aqueous solution of the iodide was converted over an Amberlyst anion exchanger into dimethyldipropylammonium hydroxide.

reactant | methyl iodide | 20 ml | CI | CH3I
reactant | dimethyldipropylammonium iodide | [I-].C[N+](CCC)(CCC)C
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | dipropylamine | 15 ml | C(CC)NCCC | C6H15N
product | Dimethyldipropylammonium Hydroxide | [OH-].C[N+](CCC)(CCC)C | InChI=1S/C8H20N.H2O/c1-5-7-9(3,4)8-6-2;/h5-8H2,1-4H3;1H2/q+1;/p-1
